US07576089B2
1-({[4-(Trifluoromethyl)pyridin-2-yl]methoxy}acetyl)pyrrolidin-3amine
To a solution of tert-butyl [(3S)-1-({[4-(trifluoromethyl)pyridin-2-yl]methoxy}acetyl)pyrrolidin-3-yl]carbamate (300 mg, 0.74 mmol) in methanol (3 mL) was added a 4.0 M solution of HCl in 1,4-dioxane (6 mL). After being stirred for 0.5 h at room temperature, the solution was concentrated under vacuum to give the title compound. MS (M+H) 304.2.

reactant | tert-butyl [(3S)-1-({[4-(trifluoromethyl)pyridin-2-yl]methoxy}acetyl)pyrrolidin-3-yl]carbamate | 0.74 mmol, 300 mg | FC(C1=CC(=NC=C1)COCC(=O)N1C[C@H](CC1)NC(OC(C)(C)C)=O)(F)F | C18H24F3N3O4
reactant | HCl | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 1-({[4-(Trifluoromethyl)pyridin-2-yl]methoxy}acetyl)pyrrolidin-3amine | FC(C1=CC(=NC=C1)COCC(=O)N1CC(CC1)N)(F)F | C13H16F3N3O2
